US09340547B2
c) 5-Chloro-2-(iodomethyl)-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-4-one
To a solution of 5-chloro-2-(chloromethyl)-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-4-one (2.87 g, 13.1 mmol) in 57 mL of dry acetone under inert atmosphere was added 3.93 g (26.2 mmol) of sodium iodide and this mixture was stirred at room temperature overnight. Next day, the reaction mixture was poured into a 1/1 mixture of water/brine (100 mL) and extracted with diethyl ether (2×75 mL). The organic layers were washed with water and brine, dried (MgSO4) and concentrated in vacuum to afford 3.95 g of the title compound (95% yield).

reactant | 5-chloro-2-(chloromethyl)-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-4-one | 13.1 mmol, 2.87 g | ClC=1C=CN2N=C(OC(C21)=O)CCl | C7H4Cl2N2O2
reactant | sodium iodide | 26.2 mmol, 3.93 g | [I-].[Na+]
reactant | water brine | 100 mL | O.[Cl-].[Na+].O
solvent | acetone | 57 mL | CC(=O)C | C3H6O
product | 5-Chloro-2-(iodomethyl)-4H-pyrrolo[1,2-d][1,3,4]oxadiazin-4-one | 3.95 g, 95% yield | ClC=1C=CN2N=C(OC(C21)=O)CI | C7H4ClIN2O2
